2105-01-18 09:22:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2105-1-17**] 09:48 AM
 ARTERIAL LINE - START [**2105-1-17**] 05:00 PM
   arterial line placed
   vanco/zosyn started because of small possible basilar consolidations
   Foley placed --> 600 cc.  Lasix: total 2.4 liters out.
   Still with dyspnea and leg pain.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Aspirin
   irritates stoma
   Niacin
   Rash;
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-1-15**] 04:00 PM
   Clindamycin - [**2105-1-17**] 12:47 AM
   Vancomycin - [**2105-1-17**] 06:04 PM
   Piperacillin - [**2105-1-18**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2105-1-18**] 08:00 AM
   Other medications:
   PPI, lyrica, heparin, mirapex, lidoderm, senna, vanco, zosyn, SQI,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Psychiatric / Sleep: No(t) Agitated
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2105-1-18**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 82 (69 - 86) bpm
   BP: 106/55(70) {97/45(62) - 162/70(307)} mmHg
   RR: 25 (19 - 39) insp/min
   SpO2: 97%
   Heart rhythm: 2nd AV W-M1 (Second degree AV Block Wenckebach - Mobitz1)
             Total In:
                                                                  1,981 mL
                                                                    811 mL
   PO:
                                                                  1,130 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    851 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                  1,060 mL
   Urine:
                                                                  1,470 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    511 mL
                                                                   -249 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: 7.47/33/70/25/0
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : basilar crackles)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   175 K/uL
   272 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   13 mg/dL
   103 mEq/L
   138 mEq/L
   27.3 %
   14.1 K/uL
        [image002.jpg]
                            [**2105-1-15**]  12:08 AM
                            [**2105-1-15**]  05:05 AM
                            [**2105-1-16**]  05:00 AM
                            [**2105-1-16**]  11:15 PM
                            [**2105-1-16**]  11:21 PM
                            [**2105-1-17**]  05:49 AM
                            [**2105-1-17**]  06:58 AM
                            [**2105-1-17**]  05:10 PM
                            [**2105-1-18**]  02:17 AM
   WBC
   9.6
   11.4
   13.9
   12.8
   14.1
   Hct
   28.2
   29.2
   29.3
   28.4
   27.3
   Plt
   177
   179
   173
   174
   175
   Cr
   0.9
   1.1
   1.0
   0.9
   1.2
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   24
   25
   25
   Glucose
   126
   238
   231
   [**Telephone/Fax (3) 7120**]
   Other labs: PT / PTT / INR:15.4/80.8/1.4, CK / CKMB /
   Troponin-T:83//<0.01, ALT / AST:33/27, Alk Phos / T Bili:79/0.2, Lactic
   Acid:2.7 mmol/L, Albumin:3.4 g/dL, LDH:249 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   68-year-old woman with respiratory distress.  This appears to be
   multifactorial.  She definitely has pulmonary embolism.  Her response
   to Lasix (decrease in RR 2-3 hours after Lasix
 see chart below) is
   highly suggest of pulmonary edema, and she was clinically felt to have
   aspiration on the floor before return to the ICU.
   [image004.jpg]
   We will continue heparin.
   We will diurese again today, though she may be too preload dependent to
   allow this.
   We will continue antibiotics for possible nosocomial pneumonia,
   completing an 8-day course.
   We have changed all meds to not include D5, and are titrating up her
   insulin for uncontrolled diabetes.
   Her bradycardia is improving; we will follow daily EKGs to follow her
   Wenckebach.
   Her respiratory status (still requiring facemask) is too unstable for
   the floor; will continue ICU rx at present.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2105-1-16**] 08:49 PM
   20 Gauge - [**2105-1-16**] 08:49 PM
   Arterial Line - [**2105-1-17**] 05:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35
   Patient is critically ill